US06399616B1
Step A: 2-(2-Nitroethyl)thiophene
15.7 g of silica 60 (230-400 mesh) and then 2.95 g of NaBH4 are added to a solution of 32.2 mmol of 2-(2-nitrovinyl)thiophene in 210 ml of chloroform and 70 ml of isopropanol. After stirring the mixture for one hour at ambient temperature, 5 ml of acetic acid are added dropwise and then, after 15 minutes, the resulting suspension is filtered and subsequently rinsed with dichloromethane. Concentration of the filtrate under reduced pressure enables the expected product to be isolated.

reactant | NaBH4 | 2.95 g | [BH4-].[Na+]
reactant | 2-(2-nitrovinyl)thiophene | 32.2 mmol | [N+](=O)([O-])C=CC=1SC=CC1 | C6H5NO2S
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 210 ml | C(Cl)(Cl)Cl | CHCl3
solvent | isopropanol | 70 ml | C(C)(C)O | C3H8O
product | 2-(2-Nitroethyl)thiophene | [N+](=O)([O-])CCC=1SC=CC1 | C6H7NO2S
